US05122535
To a suspension, cooled in ice, of 20 g (0.105 moles) of pure 5-methoxytryptamine in 400 ml methylene chloride there is slowly added, under stirring, a cold solution of 20 ml (0.21 moles) of acetic anhydride in 200 ml methylene chloride. Stirring and cooling are continued for 1 hour (the reaction progression can be controlled by TCL) so as to obtain a full solution; then the solution is washed with Na2CO3 ×2, under long stirring, and then with water. The organic phase, dried on Na2SO4 and evaporated, provides 24 g (yield 98%) of lightly colored melatonine.

reactant | 5-methoxytryptamine | 0.105 moles, 20 g | COC1=CC=C2NC=C(CCN)C2=C1 | C11H14N2O
reactant | acetic anhydride | 0.21 moles, 20 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | melatonine | yield 98% | CC(=O)NCCC1=CNC2=C1C=C(C=C2)OC | C13H16N2O2
